US04220650
In a 500 ml. round-bottomed reaction flask equipped with magnetic stirrer, reflux condenser and nitrogen-inlet tube, there were placed 10 g. (0.032 mole) of crude 4-nitro-α,α'-dibromo-o-xylene [M. Kerfanto, Bulletin de la Societe Chimique de France, Vol. 12, p. 3537 (1965)] and 44.8 g. (0.526 mole) of piperidine (52 ml.) all dissolved in 100 ml. of benzene. The resulting mixture was then heated at the reflux point for a period of 18 hours and finally cooled to room temperature (~25° C.). The spent reaction mixture was then diluted with 500 ml. of benzene and thereafter washed with four-100 ml. portions of water, followed by drying over anhydrous magnesium sulfate. After removal of the drying agent by means of filtration and the solvent by means of evaporation under reduced pressure, there was obtained a 59% yield of crude 1,1'-[4-nitro-1,2-phenylenebis(methylene)]bispiperidine as a residue in the form of a yellow oil.

reactant | 4-nitro-α,α'-dibromo-o-xylene | 0.032 mole | [N+](=O)([O-])C=1C=C(C(=CC1)CBr)CBr | C8H7Br2NO2
reactant | piperidine | 0.526 mole, 52 ml | N1CCCCC1 | C5H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,1'-[4-nitro-1,2-phenylenebis(methylene)]bispiperidine | 59% yield | [N+](=O)([O-])C1=CC(=C(C=C1)CN1CCCCC1)CN1CCCCC1 | C18H27N3O2
